US08114878B2
2.6.3 (S)-5-amino-1-methyl-piperidin-2-one
450 mg (S)-5-dibenzylamino-1-methyl-piperidin-2-one are suspended in 25 ml of methanol and hydrogenated with 150 mg Pd/C 10% under a pressure of 3 bar and at a temperature of 60° C. After 16 hours the catalyst is removed by suction filtering and the filtrate is evaporated to dryness. 190 mg of the product are obtained as an oil.

reactant | (S)-5-dibenzylamino-1-methyl-piperidin-2-one | 450 mg | C(C1=CC=CC=C1)N([C@H]1CCC(N(C1)C)=O)CC1=CC=CC=C1 | C20H24N2O
solvent | methanol | 25 ml | CO | CH4O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | (S)-5-amino-1-methyl-piperidin-2-one | 190 mg | N[C@H]1CCC(N(C1)C)=O | C6H12N2O
